US09079878B2
Ethyl (3-aminooxetan-3-yl)acetate
Ethyl oxetan-3-ylideneacetate (Preparation 38, 781 g, 5.49 mol) was dissolved in 2M ammonia in ethanol (8.24 L) and heated to 100° C. in a bomb for 5 hours. The reaction was concentrated in vacuo to afford the title compound as a mobile oil (750 g, 100% yield).

reactant | Ethyl oxetan-3-ylideneacetate | 5.49 mol, 781 g | O1CC(C1)=CC(=O)OCC | C7H10O3
reactant | ammonia | 2M | N | H3N
solvent | ethanol | 8.24 L | C(C)O | C2H6O
product | Ethyl (3-aminooxetan-3-yl)acetate | 750 g, 100% yield | NC1(COC1)CC(=O)OCC | C7H13NO3
